US06897224B2
9.8 g of 1-(5-bromo-2-methoxyphenyl)-1-methylethanol and 15.24 g of 2-(trimethylsilyloxy)-acrylic acid ethyl ester in 150 ml of dichloromethane are mixed at −70° C. with 5.6 ml of tin tetrachloride. After 20 minutes at −70° C., the solution is poured onto a semi-saturated potassium carbonate solution and mixed with dichloromethane. The dichloromethane phase is washed with potassium carbonate solution, 1 M hydrochloric acid and water, dried (Na2SO4) and concentrated by evaporation. After bulb tube distillation, 5.2 g of 4-(5-bromo-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid-ethyl ester is obtained. Boiling point: 160° C./0.04 hPa.

reactant | 1-(5-bromo-2-methoxyphenyl)-1-methylethanol | 9.8 g | BrC=1C=CC(=C(C1)C(C)(O)C)OC | C10H13BrO2
reactant | 2-(trimethylsilyloxy)-acrylic acid ethyl ester | 15.24 g | C(C)OC(C(=C)O[Si](C)(C)C)=O | C8H16O3Si
reactant | tin tetrachloride | 5.6 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-(5-bromo-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid-ethyl ester | 5.2 g | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)Br)OC)=O)=O | C15H19BrO4
